US04908376
Ethyl-1-benzylindole carboxylate is reduced as in the above example 3. The obtained oil is dissolved in ether and ethanolic hydrogen chloride is added to yield ethyl-1-benzyl-2,3-dihydroindole-carboxylate hydrochloride, m.p. 123°-124° C.

reactant | Ethyl-1-benzylindole carboxylate | C(C)OC(=O)C=1N(C2=CC=CC=C2C1)CC1=CC=CC=C1 | C18H17NO2
reactant | hydrogen chloride | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | ethyl-1-benzyl-2,3-dihydroindole-carboxylate hydrochloride | Cl.C(C)OC(=O)C1N(C2=CC=CC=C2C1)CC1=CC=CC=C1 | InChI=1S/C18H19NO2.ClH/c1-2-21-18(20)17-12-15-10-6-7-11-16(15)19(17)13-14-8-4-3-5-9-14;/h3-11,17H,2,12-13H2,1H3;1H
